US07238716B2
To a mixture of 3-cyano-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]pyridine (8.42 g) and anhydrous toluene (300 mL) was dropwise added a solution (1M, 46.6 mL) of diisobutylaluminum hydride in hexane at −78° C. The reaction mixture was allowed to warm to room temperature over 1 hr with stirring. A saturated aqueous ammonium chloride solution (70 L) was dropwise added to the mixture, and the mixture was further stirred at room temperature for 30 min. Ethyl acetate (300 mL) was added to the mixture and, after stirring the mixture at room temperature for 30 min., insoluble materials were filtered off. The filtrate, was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (6.49 g, 76%) of 2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridinecarbaldehyde from a fraction eluted with ethyl acetate-hexane (1:4, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 97-98° C.

reactant | 3-cyano-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]pyridine | 8.42 g | C(#N)C=1C(=NC=CC1)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C24H19N3O3
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 1M, 46.6 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 70 L | [Cl-].[NH4+]
reactant | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridinecarbaldehyde | 6.49 g, 76% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2C=O)C=C1 | C24H20N2O4
